US04700007
The same procedures as described in Example 1 were repeated except that a solution of 110 g of dimethyl n-pentadecanedioate in 250 ml of cyclohexane was used as a starting material. There was obtained 51 g of cyclopentadecanone, which corresponded to 62.1% of a theoretical value based on the starting compound.

reactant | dimethyl n-pentadecanedioate | 110 g | C(CCCCCCCCCCCCCC(=O)OC)(=O)OC | C17H32O4
solvent | cyclohexane | 250 ml | C1CCCCC1 | C6H12
product | cyclopentadecanone | 51 g | C1(CCCCCCCCCCCCCC1)=O | C15H28O
